US08957064B2
2-{1-[4-(6-phenyl-pyrazolo[1,5-a]pyrimidin-5-yl)-benzyl]-piperidin-4-yl}-3H-imidazo[4,5-c]pyridine
252 mg (1.06 mmol) 2-piperidine-4-yl-3H-imidazo[4,5-c]pyridine and 250 mg (0.84 mmol) 4-(6-phenylpyrazolo[1,5-a]pyrimidin-5-yl)benzaldehyde were reacted as described in example 12.0. Additional NaBH(OAc)3 has been added after one, three and five hours (two equivalents each) and the reaction mixture has been stirred overnight at room temperature. Since the reaction has not been complete, 20 mL THF and 10 mL acetic acid were added. Another two equivalents of NaBH(OAc)3 were added. Because after one hour stirring at room temperature the reaction has not changed additional 126 mg 2-piperidine-4-yl-3H-imidazo[4,5-c]pyridine and another two equivalents of NaBH(OAc)3 were added. The reaction has been worked up after stirring at room temperature for 70 hours. After purification 28 mg of the desired material has been obtained.

reactant | 2-piperidine-4-yl-3H-imidazo[4,5-c]pyridine | 1.06 mmol, 252 mg | N1CCC(CC1)C1=NC2=C(C=NC=C2)N1 | C11H14N4
reactant | 4-(6-phenylpyrazolo[1,5-a]pyrimidin-5-yl)benzaldehyde | 0.84 mmol, 250 mg | C1(=CC=CC=C1)C=1C(=NC=2N(C1)N=CC2)C2=CC=C(C=O)C=C2 | C19H13N3O
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | NaBH(OAc)3 | two equivalents | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | 2-piperidine-4-yl-3H-imidazo[4,5-c]pyridine | 126 mg | N1CCC(CC1)C1=NC2=C(C=NC=C2)N1 | C11H14N4
reactant | NaBH(OAc)3 | two equivalents | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 2-{1-[4-(6-phenyl-pyrazolo[1,5-a]pyrimidin-5-yl)-benzyl]-piperidin-4-yl}-3H-imidazo[4,5-c]pyridine | C1(=CC=CC=C1)C=1C(=NC=2N(C1)N=CC2)C2=CC=C(CN1CCC(CC1)C1=NC3=C(C=NC=C3)N1)C=C2 | C30H27N7
